US05332729
0.97 g of trimethylbromosilane is added to a solution of 0.62 g of 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester in 10 ml of absolute dichloromethane. The resulting solution is stirred for 24 hours at room temperature, the volatile portions are removed under reduced pressure and the residue is dissolved in 99.9% methanol. The solution is stirred for 1 hour at room temperature, the solvent is removed and the residue is crystallised from ethanol to give 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid hydrobromide having a melting point of 209°-210°.

reactant | trimethylbromosilane | 0.97 g | C[Si](Br)(C)C | C3H9BrSi
reactant | 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid ethyl ester | 0.62 g | C(C)OP(=O)(CC1CCCCC1)C[C@H](CNC(C)C1=CC(=CC=C1)C#N)O | C21H33N2O3P
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-{N-[1-(3-cyanophenyl)ethyl]amino}-2(S)-hydroxy-propyl(cyclohexylmethyl)phosphinic acid hydrobromide | Br.C(#N)C=1C=C(C=CC1)C(C)NC[C@@H](CP(O)(=O)CC1CCCCC1)O | InChI=1S/C19H29N2O3P.BrH/c1-15(18-9-5-8-17(10-18)11-20)21-12-19(22)14-25(23,24)13-16-6-3-2-4-7-16;/h5,8-10,15-16,19,21-22H,2-4,6-7,12-14H2,1H3,(H,23,24);1H/t15?,19-;/m0./s1
